US05183899
Ethyl 2,4-dioxooctanate
To a solution of sodium (9.3 g) in ethanol (200 ml) was added dropwise a mixture of diethyl oxalate (60 g) and 2-hexanone (40.9 g) with stirring. The reaction mixture was allowed to stand at room temperature for 45 hours. To a mixture of 1N-hydrochloric acid (500 ml) and hexane (500 ml) was added dropwise the reaction mixture with stirring vigorously. After the addition, water (500 ml) was added. The organic layer was washed with water (100 ml ×3), dried, and the solvent was removed by evaporation in vacuo. The residue was distilled under reduced pressure and the distillate at the boiling point of 110° to 111° C. (6 mmHg) was collected to give the desired product (57 g, 70%).

reactant | sodium | 9.3 g | [Na] | Na
reactant | diethyl oxalate | 60 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-hexanone | 40.9 g | CC(CCCC)=O | C6H12O
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
solvent | hexane | 500 ml | CCCCCC | C6H14
product | Ethyl 2,4-dioxooctanate | 57 g, 70% | O=C(C(=O)OCC)CC(CCCC)=O | C10H16O4
